US07259266B2
Step 1. Preparation of ethyl 6-(benzyloxy)-8-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of ethyl 8-chloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 17a, Step 3 (1.00 g, 3.10 mmole) in anhydrous DMF (10.0 mL) was added KI (51.5 mg, (0.310 mmole), K2CO3 (1.29 g, 9.30 mmole) and benzyl bromide (1.11 ml, 9.30 mmole). The suspension was stirred at room temperature for 2 h and poured into H2O (150 mL) and extracted with EtOAc (3×100 mL). The combined extracts were washed with brine (2×100 mL), dried over MgSO4 and concentrated in vacuo to give a yellow oil. Purification by silica chromatography (6:1 hexanes:EtOAc) gave 1.12 g (87.5% yield) of the product as a yellow crystalline solid: EIHRMS m/z 412.0689 (M+, C20H16ClF3O4, Calc'd 412.0680).

reactant | ethyl 8-chloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)O | C13H10ClF3O4
reactant | K2CO3 | 0.310 mmole, 51.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 9.30 mmole, 1.11 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | H2O | 150 mL | O | H2O
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | ethyl 6-(benzyloxy)-8-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.12 g, 87.5% yield | C(C1=CC=CC=C1)OC=1C=C2C=C(C(OC2=C(C1)Cl)C(F)(F)F)C(=O)OCC | C20H16ClF3O4
